US08067590B2
4-Benzyloxy-1-[2-(3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-oxo-ethyl]-1H-pyridin-2-one
To 2.00 g (5.15 mmol) 4-benzyloxy-1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one (preparation 22.3) in 20 mL THF is added 0.41 mL (5.51 mmol) aqueous 37% formaldehyde solution. The mixture is acidified (pH 4-5) with acetic acid and then 1.27 g (5.97 mmol) sodium triacetoxy-borohydride is added. The reaction mixture is stirred overnight at RT, diluted with aqueous saturated NaHCO3-solution until pH 7 and THF is evaporated. The residue is diluted with EtOAc, the layers are separated and the organic phase is concentrated. The residue is elutriated in tert-butylmethylether and is collected by filtration. The residue is dissolved in DMF and purified via reverse HPLC chromatography (Waters symmetry, C18; water (0.15% formic acid)/acetonitrile 95:5 to 5:95).

reactant | 4-benzyloxy-1-[2-oxo-2-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-ethyl]-1H-pyridin-2-one | 5.15 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(C1=CC2=C(CCNCC2)C=C1)=O)=O | C24H24N2O3
reactant | formaldehyde | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxy-borohydride | 5.97 mmol, 1.27 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-Benzyloxy-1-[2-(3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-2-oxo-ethyl]-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(=O)C1=CC2=C(CCN(CC2)C)C=C1)=O | C25H26N2O3
